US06030973
5-[4-[[1-Methyl-4-oxo-1,2,3,4-tetrahydro-2-quinazolinyl]methoxy]phenyl methyl]thiazolidin-2,4-dione;
5-[4-[[1,3-Dimethyl-4-oxo-1,2,3,4-tetrahydro-2-quinazolinyl]methoxy]phenyl methyl]thiazolidin-2,4-dione, sodium salt;

reactant | 5-[4-[[1,3-Dimethyl-4-oxo-1,2,3,4-tetrahydro-2-quinazolinyl]methoxy]phenyl methyl]thiazolidin-2,4-dione | CN1C(N(C(C2=CC=CC=C12)=O)C)COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C21H21N3O4S
reactant | sodium | [Na] | Na
product | 5-[4-[[1-Methyl-4-oxo-1,2,3,4-tetrahydro-2-quinazolinyl]methoxy]phenyl methyl]thiazolidin-2,4-dione | CN1C(NC(C2=CC=CC=C12)=O)COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C20H19N3O4S
